*** Title: "E:\WORCK\LR_2_SH\simulation\tb_zd\netlistLR_2_SH_NID.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Sun Feb 22 22:21:25 2026                     
*******************************************************************

simulator lang=local


parameters 

V0 vdd! gnd vsource type=dc dc=5 
V3 clk gnd vsource type=pulse val0=5 val1=0 delay=4e-009 period=8e-008 rise=1e-009 fall=1e-009 width=4e-008 
V12 n1_10 gnd vsource type=dc dc=5 
V13 n1_9 gnd vsource type=dc dc=5 
V4 n43_12 gnd vsource type=dc dc=5 
V5 n43_11 gnd vsource type=dc dc=5 
V1 n47_2 gnd vsource type=dc dc=5 
V2 n48_2 gnd vsource type=dc dc=5 
I0 clk b c d e n1_9 n1_10 a nanbncndne nanbcde nabcdne zd_t_1 
I2 clk b e n43_11 n43_12 c a d abcnde nanbncndne nabcdne abncdne nanbcde zd_t_3 
I18 a b c d e nanbncndne nabcdne abcnde abncdne abcndne nanbcde abcdne nanbcndne zd_zd 
I1 clk c e n48_2 n47_2 b a nanbcndne nanbcde abcnde abcdne zd_t_2 

subckt zd_t_1 CLK b c d e R S a nanbncndne nanbcde nabcdne 
I0 CLK in R S a d_trig_tgl 
I4 ne e inv 
I1 nb b inv 
I6 a b n49_1 c d ne OR5 
I2 n58_2 nanbncndne inv 
I48 n49_2 n49_1 inv 
I7 a nb n57_6 c d e OR5 
I3 n59_2 nanbcde inv 
I5 n60_2 nabcdne inv 
I8 n61_2 n57_6 inv 
I9 n49_2 n58_2 in n59_2 n60_2 n61_2 NAND5 
ends

subckt d_trig_tgl CLK D RSTB SETB Q 
M4 n9_4 clka n9_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 n9_4 clkb n9_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M12 n9_1 n5_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M13 n9_1 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M14 n9_1 n5_4 n25_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M15 n25_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M16 Q n9_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M17 Q RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M18 Q n9_4 n29_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M19 n29_1 RSTB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M20 n31_4 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M21 n31_4 Q vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M22 n31_4 Q n33_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M23 n33_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 clkb CLK vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M1 clkb CLK gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 clka clkb vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 clka clkb gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M25 n11_4 n9_1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M26 n11_4 RSTB n37_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M27 n37_1 n9_1 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M24 n11_4 RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 n5_4 clkb D gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 n5_4 clka D vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M8 n31_4 clkb n9_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 n31_4 clka n9_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 n11_4 clkb n5_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 n11_4 clka n5_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt OR5 A B Out C D E 
M2 n3_4 B n3_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 n3_1 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n7_4 C n3_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M5 n8_4 D n7_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 Out E n8_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M0 Out A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M7 Out C gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M8 Out D gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 Out E gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt NAND5 B A Out C D E 
M0 n1_4 B n1_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out A n1_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n1_1 C gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 Out C vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 gnd D n10_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M7 n10_1 E gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 Out D vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 Out E vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends

subckt zd_t_3 CLK b e R S c a d abcnde nanbncndne nabcdne abncdne nanbcde 
I0 CLK in R S c d_trig_tgl 
I3 ne e inv 
I41 nc c inv 
I54 nb b inv 
I1 na a inv 
I2 na nb n79_6 nc d e OR5 
I7 a b n80_6 b d ne OR5 
I8 n81_2 nanbncndne inv 
I9 n82_2 abcnde inv 
I10 n83_2 nabcdne inv 
I11 n84_2 abncdne inv 
I12 n85_2 nanbcde inv 
I13 n86_2 n79_6 inv 
I14 n87_2 n80_6 inv 
I4 n82_2 n81_2 in n83_2 n84_2 n85_2 n86_2 n87_2 nand7 
ends

subckt nand7 B A Out C D E F G 
M0 n1_4 B n1_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out A n1_4 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n1_1 C n1_3 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M5 Out C vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 n1_3 D n7_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M7 n7_1 E n8_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M8 n8_1 F n9_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M9 n9_1 G gnd n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M10 Out D vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 Out E vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M12 Out F vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M13 Out G vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends

subckt zd_zd a b c d e nanbncndne nabcdne abcnde abncdne abcndne nanbcde abcdne nanbcndne 
I0 na a inv 
I1 nb b inv 
I2 nc c inv 
I3 nd d inv 
I4 ne e inv 
I29 a b nanbncndne c d e OR5 
I30 a b nanbcde nc nd ne OR5 
I31 a nb nabcdne nc nd e OR5 
I32 na nb abcnde nc d ne OR5 
I33 na nb abncdne c nd e OR5 
I34 na nb abcndne nc d e OR5 
I5 na nb abcdne nc nd e OR5 
I6 a b nanbcndne nc d e OR5 
ends

subckt zd_t_2 CLK c e R S b a nanbcndne nanbcde abcnde abcdne 
I0 CLK in R S b d_trig_tgl 
I4 ne e inv 
I42 nb b inv 
I2 nc c inv 
I74 na a inv 
I3 a b n88_6 c d ne OR5 
I7 a nb n89_6 c d e OR5 
I8 na b n90_6 nc d e OR5 
I5 n91_1 nanbcndne inv 
I6 n91_2 n88_6 inv 
I9 n91_4 n89_6 inv 
I10 n91_3 nanbcde inv 
I11 n91_5 abcnde inv 
I12 n91_6 n90_6 inv 
I13 n91_7 abcdne inv 
I1 n91_2 n91_1 in n91_3 n91_4 n91_5 n91_6 n91_7 nand7 
ends
