*** Title: "E:\WORCK\LR_2_SH\simulation\tb_zd_vdva\netlistLR_2_SH_NID.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Mon Feb 23 01:22:14 2026                     
*******************************************************************

simulator lang=local


parameters 

V0 vdd! gnd vsource type=dc dc=5 
V1 clk gnd vsource type=pulse val0=5 val1=0 delay=4e-009 period=8e-008 rise=1e-009 fall=1e-009 width=4e-008 
V3 rst gnd vsource type=dc dc=5 
V4 setb gnd vsource type=pulse val0=5 val1=0 delay=1e-008 period=8e-006 rise=1e-009 fall=1e-009 width=3e-008 
I0 clk inb rst setb b d_trig_tgl 
I1 clk inc rst setb c d_trig_tgl 
I2 clk ind rst setb d d_trig_tgl 
I3 clk ine rst setb e d_trig_tgl 
I4 nb b inv 
I5 nc c inv 
I6 nd d inv 
I7 ne e inv 
I8 b c n9_5 d e NOR4 
I9 nb nc n14_5 d ne NOR4 
I10 b nc n15_5 d e NOR4 
I11 nb c n16_5 d e NOR4 
I12 b nc n17_5 nd ne NOR4 
I13 b c n18_5 d ne NOR4 
I14 nb nc n19_5 nd ne NOR4 
I17 bcnde n14_5 inv 
I18 nbcndne n15_5 inv 
I19 bncndne n16_5 inv 
I20 nbcde n17_5 inv 
I22 bcde n19_5 inv 
I21 nbncnde n18_5 inv 
I15 bcnde nbncndne inb nbcndne bncndne nbcde nbncnde bcde nand7 
I23 nb nc n28_5 nd e NOR4 
I30 bcdne n28_5 inv 
I37 bncdne bcdne inc bcndne nbncndne bcnde nbcde nbncnde nand7 
I43 bncndne bcnde ind bncdne bcndne nbncnde NAND5 
I25 nb c n75_1 nd e NOR4 
I26 nb nc n37_1 d e NOR4 
I16 nbncndne n9_5 inv 
I24 bncdne n75_1 inv 
I32 bcndne n37_1 inv 
I27 b nc n90_5 nd e NOR4 
I33 nbcdne n90_5 inv 
I34 nbcdne nbncndne ine nbncnde bcde bncdne NAND5 

subckt d_trig_tgl CLK D RSTB SETB Q 
M4 n9_4 clka n9_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 n9_4 clkb n9_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M12 n9_1 n5_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M13 n9_1 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M14 n9_1 n5_4 n25_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M15 n25_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M16 Q n9_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M17 Q RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M18 Q n9_4 n29_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M19 n29_1 RSTB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M20 n31_4 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M21 n31_4 Q vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M22 n31_4 Q n33_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M23 n33_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 clkb CLK vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M1 clkb CLK gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 clka clkb vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 clka clkb gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M25 n11_4 n9_1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M26 n11_4 RSTB n37_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M27 n37_1 n9_1 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M24 n11_4 RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 n5_4 clkb D gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 n5_4 clka D vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M8 n31_4 clkb n9_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 n31_4 clka n9_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 n11_4 clkb n5_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 n11_4 clka n5_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt NOR4 A B Out C D 
M0 n1_4 B n1_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M1 n1_1 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 n4_4 C n1_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 Out D n4_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M5 Out A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M6 Out B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M7 Out C gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M8 Out D gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt nand7 B A Out C D E F G 
M0 n1_4 B n1_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out A n1_4 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n1_1 C n1_3 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M5 Out C vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 n1_3 D n7_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M7 n7_1 E n8_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M8 n8_1 F n9_1 n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M9 n9_1 G gnd n1_3 nmos_mod1.1 w=2e-006 l=6e-007 
M10 Out D vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 Out E vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M12 Out F vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M13 Out G vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends

subckt NAND5 B A Out C D E 
M0 n1_4 B n1_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out A n1_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n1_1 C gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 Out C vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 gnd D n10_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M7 n10_1 E gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 Out D vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 Out E vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends
